US05281743
Example 1--Preparation of Diisobutyl Dicarbonate
Isobutyl chloroformate (136.76 g, 1.0 mol.) was added dropwise to a stirred mixture of powered, anhydrous potassium carbonate (77 g, 0.56 mol) in acetonitrile at such a rate as to maintain a reaction temperature of 40° C. The reaction mixture was stirred for six (6) hours at ambient temperature and then allowed to stand overnight prior to work-up. The crude product was purified by vacuum distillation, and the fraction collected between 58° and 62° C. at 0.05-0.10 mmHg was found to be di-isobutyl dicarbonate. YIELD=86.93 g=80%.

reactant | Isobutyl chloroformate | 1.0 mol, 136.76 g | ClC(=O)OCC(C)C | C5H9ClO2
reactant | potassium carbonate | 0.56 mol, 77 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | Diisobutyl Dicarbonate | C(=O)(OCC(C)C)OC(=O)OCC(C)C | C10H18O5
